US09126946B2
reacting 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine with 2,4-difluorophenyl-isocyanate in the presence of a urea-forming solvent to form 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea.

reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OC)N | C11H12BrN3O
reactant | 2,4-difluorophenyl-isocyanate | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | urea | NC(=O)N | CH4N2O
product | 1-[3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenyl]-3-(2,4-difluoro-phenyl)-urea | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OC)NC(=O)NC1=C(C=C(C=C1)F)F | C18H15BrF2N4O2
